US07470710B2
Description 19: (RS)-2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
4,5-Difluoro-benzene-1,2-diamine (1.00 g, 6.9 mmol) and 2 carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (Beckett et al, J. Med. Chem., 563,1969) (1.69 g, 6.9 mmol) were heated at 120° C. with stirring, under argon for 4 h. A further portion of 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester (0.85 g) was added and heating was continued for a further 2 h. The cooled reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium bicarbonate (2×) and brine, dried (MgSO4) and the solvent removed in vacuo. The residue was chromatographed (silica gel, 0-30% ethyl acetate-pentane) to give a yellow solid which was triturated with diethyl ether to afford the title compound as a pale brown solid (0.38 g, 15%).

reactant | 4,5-Difluoro-benzene-1,2-diamine | 6.9 mmol, 1.00 g | FC=1C=C(C(=CC1F)N)N | C6H6F2N2
reactant | carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 6.9 mmol, 1.69 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.85 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.38 g, 15% | C(C)(C)(C)OC(=O)N1C(CCCC1)CC1=NC2=C(N1)C=C(C(=C2)F)F | C18H23F2N3O2
